US08614209B2
N-Methyl-4-[4-(piperidine-1-carbonyl)-thiophen-2-yl]benzamide (AA-11)
4-[4-(Piperidine-1-carbonyl)-thiophen-2-yl]-benzoic acid was taken up in DCM (5 mL) and oxalyl chloride (0.099 mL, 3 eq.) added with a drop of DMF. The mixture was then stirred for 1 hour and then evaporated and the residue taken up in DCM (5 mL). Triethylamine (0.106 mL, 2 eq.) was added followed by methylamine.HCl (28 mg, 1.1 eq). The mixture was stirred for 2 hours and then evaporated and the residue purified by column chromatography (EtOAc/iso-hexane) to give the desired product (21.9 mg, 17%). LCMS m/z 329 [M+H]+ R.T.=2.47 min (Analytical Method 3).

reactant | 4-[4-(Piperidine-1-carbonyl)-thiophen-2-yl]-benzoic acid | N1(CCCCC1)C(=O)C=1C=C(SC1)C1=CC=C(C(=O)O)C=C1 | C17H17NO3S
reactant | oxalyl chloride | 0.099 mL, 3 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Triethylamine | 0.106 mL, 2 eq. | C(C)N(CC)CC | C6H15N
reactant | methylamine | CN | CH5N
reactant | HCl | 28 mg, 1.1 eq | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-Methyl-4-[4-(piperidine-1-carbonyl)-thiophen-2-yl]benzamide | 21.9 mg, 17% | CNC(C1=CC=C(C=C1)C=1SC=C(C1)C(=O)N1CCCCC1)=O | C18H20N2O2S
